US05631401
4-Phenoxybenzyl alcohol
A 0° C. solution of 4-phenoxybenzaldehyde (5.0 g, 25.2 mmol) in 10 mL THF under an atmosphere of dry N2 was treated with borane (1.0M in THF, 11.25 mL) for 1 hour. A saturated NH4Cl solution was added, and the mixture was diluted with ethyl acetate. The organic layer was washed with 1M HCl, 5% NaHCO3 and brine, dried and concentrated in vacuo to give the title compound in 92% yield.

reactant | 4-phenoxybenzaldehyde | 25.2 mmol, 5.0 g | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | borane | 1.0M, 11.25 mL | B | BH3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Phenoxybenzyl alcohol | 92% yield | O(C1=CC=CC=C1)C1=CC=C(CO)C=C1 | C13H12O2
